US05055213
2.5 ml of a 40% strength methanolic solution of benzyltrimethylammonium hydroxide are added dropwise to a reactor containing 100 g (0.5 moles) of phenothiazine and 530 g (10 moles) of acrylonitrile and cooled to a temperature below 10° C. The whole is heated to 80° C. for 1 hour 30 min. The excess acrylonitrile is removed by vacuum distillation. The solid is recrystallized twice from acetone. 10-Phenothiazinylproprionitrile is obtained in a 66% yield (83.9 g). M.p.: 156°-157° C.

reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | phenothiazine | 0.5 moles, 100 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | acrylonitrile | 10 moles, 530 g | C(C=C)#N | C3H3N
product | 10-Phenothiazinylproprionitrile | 66% yield | C1=CC=CC=2SC3=CC=CC=C3N(C12)C(C#N)C | C15H12N2S
